US05969139
Reaction of 3-amino-5,5-dimethyl-2-cyclohexen-1-one with 4-chloro-3-fluorobenzaldehyde in an analogous manner to that described in Example 1 gave 9-(4-chloro-3-fluorophenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione. Crystallization from absolute ethanol gave a yellow crystalline solid of melting point >300° C. (decomposition).

reactant | 3-amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 4-chloro-3-fluorobenzaldehyde | ClC1=C(C=C(C=O)C=C1)F | C7H4ClFO
product | 9-(4-chloro-3-fluorophenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | ClC1=C(C=C(C=C1)C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)(C)C)=O)F | C23H25ClFNO2
